US07273878B2
To 10 ml of N,N-dimethylformamide were dissolved 0.50 g (2.2 mmol) of 6,6-difluoro-5-methyl-5-hexenyl methanesulfonate and 0.53 g (2.4 mmol) of 4-methyl-2-phenylthiazole-5-carboxylic acid, followed by the addition of 0.37 g (4.4 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 6 hours. The reaction liquid was then poured in water and extracted with ethyl acetate. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:19) to obtain 0.57 g (yield: 74%) of 6,6-difluoro-5-methyl-5-hexenyl 4-methyl-2-phenylthiazole-5-carboxylate.

reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 6,6-difluoro-5-methyl-5-hexenyl methanesulfonate | 2.2 mmol, 0.50 g | CS(=O)(=O)OCCCCC(=C(F)F)C | C8H14F2O3S
reactant | 4-methyl-2-phenylthiazole-5-carboxylic acid | 2.4 mmol, 0.53 g | CC=1N=C(SC1C(=O)O)C1=CC=CC=C1 | C11H9NO2S
reactant | sodium hydrogencarbonate | 4.4 mmol, 0.37 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 6,6-difluoro-5-methyl-5-hexenyl 4-methyl-2-phenylthiazole-5-carboxylate | 0.57 g, yield: 74% | CC=1N=C(SC1C(=O)OCCCCC(=C(F)F)C)C1=CC=CC=C1 | C18H19F2NO2S
